US08476434B2
Synthesis of (2-Methoxy-phenyl)-{4-methyl-3-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-phenyl}-methanone
To 4-methyl-3-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-benzoyl chloride (50 mg, 0.14 mmol) in a flame dried, round-bottom flask under nitrogen and cooled to −78° C. was added 4 ml of THF, 2 ml methylene chloride and magnesium-bromide-2-methoxy-benzene in THF (0.3 ml, 0.6 mmol). After addition of the magnesium-bromide, the −78° C. dry ice bath was removed and the reaction allowed to warm to room temperature over 4 h. The reaction was quenched with saturated sodium bicarbonate solution and extracted with methylene chloride and brine. The organic layers were combined, dried with sodium sulfate and filtered. The solvent was removed under vacuum and the product was purified via preparative HPLC (Gilson). MS m/z=427 [M+H]+. Calc'd for C25H22N4O3: 426.48.

reactant | 4-methyl-3-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-benzoyl chloride | 0.14 mmol, 50 mg | CC1=C(C=C(C(=O)Cl)C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C18H15ClN4O2
reactant | THF | 4 ml | C1CCOC1 | C4H8O
reactant | magnesium-bromide 2-methoxy-benzene | [Br-].[Mg+2].[Br-].COC1=CC=CC=C1
reactant | THF | 0.6 mmol, 0.3 ml | C1CCOC1 | C4H8O
reactant | magnesium-bromide | [Br-].[Mg+2].[Br-]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (2-Methoxy-phenyl)-{4-methyl-3-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-phenyl}-methanone | COC1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1)C)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C25H22N4O3
